US06265411B1
A solution of oxindole (153 mg, 1.15 mmol) in DMF (3 ml) was added to a suspension of sodium hydride (46 mg, 1.15 mmol, prewashed with hexane) in DMF (1 ml) and the mixture was stirred for 30 minutes at ambient temperature. 4-Chloro-6-methoxy-7-(2-(2-methoxyethoxy)ethoxy)quinazoline (120 mg, 0.38 mmol) was added as a solid and the mixture was stirred for 10 minutes at ambient temperature and then for 45 minutes at 50° C. The mixture was allowed to cool and was partitioned between ether and water. The aqueous layer was separated and adjusted to pH7.5 with 1M hydrochloric acid. The resulting precipitate was collected by filtration washed with water followed by ether and dried over phosphorus pentoxide. The solid was dissolved in methylene chloride/methanol and 2.8M ethereal hydrogen chloride (1 ml) was added. The volatiles were removed by evaporation, the solid residue was triturated with ether, collected by filtration and dried under vacuum to give 6-methoxy-7-(2-(2-methoxyethoxy)ethoxy)-4-(oxindol-3-yl)quinazoline hydrochloride (124 mg, 73%).

reactant | oxindole | 1.15 mmol, 153 mg | N1C(CC2=CC=CC=C12)=O | C8H7NO
reactant | sodium hydride | 1.15 mmol, 46 mg | [H-].[Na+]
reactant | 4-Chloro-6-methoxy-7-(2-(2-methoxyethoxy)ethoxy)quinazoline | 0.38 mmol, 120 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCOCCOC | C14H17ClN2O4
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | 6-methoxy-7-(2-(2-methoxyethoxy)ethoxy)-4-(oxindol-3-yl)quinazoline hydrochloride | 124 mg, 73% | Cl.COC=1C=C2C(=NC=NC2=CC1OCCOCCOC)C1C(NC2=CC=CC=C12)=O | InChI=1S/C22H23N3O5.ClH/c1-27-7-8-29-9-10-30-19-12-17-15(11-18(19)28-2)21(24-13-23-17)20-14-5-3-4-6-16(14)25-22(20)26;/h3-6,11-13,20H,7-10H2,1-2H3,(H,25,26);1H
